US07220750B2
4-[(3-Bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]-6-[(1-oxo-2,4-hexadien-1-yl)amino]quinazoline
To 31 mg of sorbic acid in 1 ml of tetrahydrofuran are added 40 μl of isobutyl chloroformate followed by 45 μl of N-methylmorpholine whilst cooling with an ice bath. The white suspension is stirred for one minute, then a solution of 100 mg of 6-amino-4-[(3-bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]quinazoline in 1.5 ml of pyridine is added. The ice bath is removed and the reaction mixture is stirred overnight. For working up, it is poured onto 20 ml of ice water, stirred for 30 minutes and adjusted to pH 9–10 with a few drops of 2 N sodium hydroxide solution. The aqueous phase is extracted with methylene chloride, the combined organic phases are dried over sodium sulfate and concentrated by evaporation. The resin-like crude product is purified by chromatography over an aluminium oxide column (activity III) with methylene chloride/methanol (99.5:0.5). Yield: 62 mg (52% of theory); Rf value: 0.29 (aluminium oxide, activity III; methylene chloride/methanol=98:2); mass spectrum (EI): m/z=563, 565 [M]+.

reactant | sorbic acid | 31 mg | C(\C=C\C=C\C)(=O)O | C6H8O2
reactant | isobutyl chloroformate | 40 μl | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-methylmorpholine | 45 μl | CN1CCOCC1 | C5H11NO
reactant | 6-amino-4-[(3-bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]quinazoline | 100 mg | NC=1C=C2C(=NC=NC2=CC1OCCCC1CCN(CC1)C)NC1=CC(=CC=C1)Br | C23H28BrN5O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | pyridine | 1.5 ml | N1=CC=CC=C1 | C5H5N
product | 4-[(3-Bromophenyl)amino]-7-[3-(1-methylpiperidin-4-yl)propyloxy]-6-[(1-oxo-2,4-hexadien-1-yl)amino]quinazoline | BrC=1C=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)NC(C=CC=CC)=O)OCCCC1CCN(CC1)C | C29H34BrN5O2
